US07572921B2
To a solution of 4-(2-hydroxy-ethyl)-piperazine-1-carboxylic acid tert-butyl ester (231 mg, 1.0 mmol) in CH2Cl2 (2 mL) at 0° C. was added dropwise SOCl2 (0.15 mL, 2.0 mmol). The mixture was allowed to warm up to ambient temperature and stirred for 14 h. Volatiles were removed in vacuo and the residue partitioned between CH2Cl2 (20 mL) and saturated NaHCO3 (10 mL). The CH2Cl2 phase was dried over Na2SO4 and concentrated in vacuo to afford 4-(2-chloro-ethyl)-piperazine-1-carboxylic acid tert-butyl ester as a white solid (130 mg, 52%): ESI MS m/z 249 [C11H21ClN2O2+H]+.

reactant | 4-(2-hydroxy-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.0 mmol, 231 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CCO | C11H22N2O3
reactant | SOCl2 | 2.0 mmol, 0.15 mL | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-chloro-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | 130 mg, 52% | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCl | C11H21ClN2O2
